US07064124B2
N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-hydroxybenzoyl]-4-(tert-butoxycarbonyl)aminoaniline
N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoyl]-4-(tert-butoxycarbonyl)aminoaniline (0.140 g, 0.248 mmol) was dissolved in methanol (6 ml) and after adding thereto an aqueous saturated sodium hydrogencarbonate solution (2 ml), the solution was stirred at room temperature for 3 hours. After the completion of reaction, the reaction solution was diluted with water and extracted with ethyl acetate. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (chloroform:methanol=10:1) and then recrystallized from a mixed solvent of ether and hexane (3:1) to obtain the titled compound (0.095 g, 0.182 mmol, 73%).

reactant | N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoyl]-4-(tert-butoxycarbonyl)aminoaniline | 0.248 mmol, 0.140 g | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)NC2=CC=C(C=C2)NC(=O)OC(C)(C)C)C1)OC(C)=O)C)=O | C30H32N2O9
reactant | sodium hydrogencarbonate | 2 ml | C(O)([O-])=O.[Na+]
solvent | methanol | 6 ml | CO | CH4O
solvent | water | O | H2O
product | N-[5-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-hydroxybenzoyl]-4-(tert-butoxycarbonyl)aminoaniline | 0.182 mmol, 0.095 g, 73% | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)NC2=CC=C(C=C2)NC(=O)OC(C)(C)C)C1)O)C)=O | C28H30N2O8
